US04131686
A mixture of 0.5 g of 2-(2-methoxyphenyl)oxirane (crude product) and 600 mg of 3,4-dimethoxyphenethylamine is heated at 130° to 140° C. for 2 hours. After cooling, chloroform is added to the reaction mixture, and said mixture is washed with water. The mixture is dried and evaporated to remove solvent. 2 ml of ethanol are added to the residue obtained. Then, hydrochloric acid-containing diethylether is added to the ethanol mixture, and crystalline precipitates are collected by filtration. 290 mg of α-(3,4-dimethoxyphenethylaminomethyl)-2-methoxybenzylalcohol hydrochloride are obtained as crystals. M.p. 142°-143° C.

reactant | 2-(2-methoxyphenyl)oxirane | 0.5 g | COC1=C(C=CC=C1)C1OC1 | C9H10O2
reactant | 3,4-dimethoxyphenethylamine | 600 mg | COC=1C=C(CCN)C=CC1OC | C10H15NO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | diethylether | C(C)OCC | C4H10O
product | α-(3,4-dimethoxyphenethylaminomethyl)-2-methoxybenzylalcohol hydrochloride | 290 mg | Cl.COC=1C=C(CCNCC(C2=C(C=CC=C2)OC)O)C=CC1OC | InChI=1S/C19H25NO4.ClH/c1-22-17-7-5-4-6-15(17)16(21)13-20-11-10-14-8-9-18(23-2)19(12-14)24-3;/h4-9,12,16,20-21H,10-11,13H2,1-3H3;1H
